US04470989
41.4 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(6-chlorobenzimidazol-2-on-1-yl)-piperidine
A solution of 4.8 g of potassium cyanate in 10 ml of water was added to 14.5 g of 1-[(benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chloro-2-aminoanilino)-piperidine in 5 ml of 10% strength hydrochloric acid and 40 ml of water, whilst cooling and stirring. When the addition had ended, the mixture was stirred at room temperature for 1 hour and then under reflux for 24 hours. After the mixture had been cooled, it was extracted with chloroform. The extract was washed with 5% strength hydrochloric acid, dried and filtered and the filtrate was concentrated.

reactant | potassium cyanate | 4.8 g | [O-]C#N.[K+]
reactant | 1-[(benzo-1,4-dioxan-2-yl)-methyl]-4-(5-chloro-2-aminoanilino)-piperidine | 14.5 g | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)NC2=C(C=CC(=C2)Cl)N | C20H24ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 1-[(Benzo-1,4-dioxan-2-yl)-methyl]-4-(6-chlorobenzimidazol-2-on-1-yl)-piperidine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)N2C(NC1=C2C=C(C=C1)Cl)=O | C21H22ClN3O3
